US07851469B2
6-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(2,2,2-trifluoro-ethyl)-nicotinamide
As described for Example 18, 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester (90 mg, 0.22 mmol), was converted, using 2,2,2-trifluoroethylamine instead of cyclopropanemethylamine, to the title compound (60 mg, 57%) which was obtained as a white solid. MS: m/e=482.1 [M+H]+.

reactant | 6-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-nicotinic acid methyl ester | 0.22 mmol, 90 mg | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C20H13F3N4O3
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 6-[4-(3-Phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-N-(2,2,2-trifluoro-ethyl)-nicotinamide | 60 mg, 57% | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NCC(F)(F)F)C=C1)C(F)(F)F | C21H13F6N5O2
